US04386081
(e) Dimethyl phenoxycarbonylphosphonate
From 10.0 ml (85 mmole) of trimethylphosphite and 10.0 g (64 mmole) of phenylchloroformate. (100° C., 2 hours). Yield 11.0 g (75%). Bp0.5 125°-7° C. nD25 1,4907.

reactant | trimethylphosphite | 85 mmole, 10.0 ml | COP(OC)OC | C3H9O3P
reactant | phenylchloroformate | 64 mmole, 10.0 g | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
product | Dimethyl phenoxycarbonylphosphonate | O(C1=CC=CC=C1)C(=O)P(OC)(OC)=O | C9H11O5P
